US07732477B2
rac-N-(1-Azabicyclo[2.2.2]oct-3-yl)-5-amino-1-benzothiophene-2-carboxamide dihydrochloride
129 mg (0.35 mmol) of rac-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-nitro-1-benzothiophene-2-carboxamide hydrochloride are dissolved in a mixture of 5 ml of acetic acid and 3 ml of water. 114.7 mg (1.75 mmol) of zinc are added, and the mixture is stirred at RT for 5 h. The reaction mixture is filtered through kieselguhr, the solvent is removed and the residue is taken up in dichloromethane. The resulting solution is washed with 1N aqueous sodium hydroxide solution. The organic phase is dried over sodium sulfate and the solvent is then removed under reduced pressure. The resulting solid is dissolved in a little THF, and an excess of 1N HCl in diethyl ether is added. The THF is then distilled off. 103 mg (80% of theory) of the title compound are isolated.

reactant | rac-N-(1-azabicyclo[2.2.2]oct-3-yl)-5-nitro-1-benzothiophene-2-carboxamide hydrochloride | 0.35 mmol, 129 mg | Cl.N12CC(C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=C(C=C1)[N+](=O)[O-]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 3 ml | O | H2O
catalyst | zinc | 1.75 mmol, 114.7 mg | [Zn] | Zn
product | rac-N-(1-Azabicyclo[2.2.2]oct-3-yl)-5-amino-1-benzothiophene-2-carboxamide dihydrochloride | Cl.Cl.N12CC(C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=C(C=C1)N | InChI=1S/C16H19N3OS.2ClH/c17-12-1-2-14-11(7-12)8-15(21-14)16(20)18-13-9-19-5-3-10(13)4-6-19;;/h1-2,7-8,10,13H,3-6,9,17H2,(H,18,20);2*1H
